US07563797B2
NIS (1.5 eq, 1.06 mmol, 238 mg) was added in one portion to a stirred solution of imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (0.705 mmol, 124 mg) in acetonitrile (3 mL). The resulting mixture was stirred overnight. The resulting precipitate was filtered and washed with ethyl acetate. Drying in vacuo at room temperature afforded 3-iodo-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester in 88% yield. m/z (M+H)=303.1.

reactant | NIS | 1.06 mmol, 238 mg, 1.5 eq | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 0.705 mmol, 124 mg | COC(=O)C1=CC=2N(C=C1)C=CN2 | C9H8N2O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-iodo-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 88% yield | COC(=O)C1=CC=2N(C=C1)C(=CN2)I | C9H7IN2O2
